US07666878B2
90d) [1-(2-Chloro-4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To an ice cooled (0° C.) stirred solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((2.25 g, 1.1 mmol) in dry DMF (15 ml) is added sodium hydride (0.484 g of a 60% dispersion in mineral oil, 12.1 mmol). After stirring at room temperature for 3 hours, the reaction mixture is re-cooled to 0° C. and treated with 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene (5.0 g, 17.6 mmol) and sodium iodide (2.64 g, 17.6 mmol). The resulting mixture is stirred and allowed to warm to room temperature overnight. The reaction mixture is poured onto water (300 ml) and extracted with 1:1 ethyl acetate/diethyl ether. The organic portions are washed with brine, dried (Na2SO4) and concentrated in vacuo and the resulting crude is purified by chromatography on silica eluting with ethyl acetate/iso-hexane (1:4 increasing to 1:2) to yield the titled product. (MH+ 407)

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene | 17.6 mmol, 5.0 g | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | sodium iodide | 17.6 mmol, 2.64 g | [I-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | [1-(2-Chloro-4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=C(C=C(C=C2)S(=O)(=O)C)Cl)C)=O | C19H19ClN2O4S
